US20010021710A1
(±)-cis-7-Hydroxy-3-(3-hydroxyphenyl)-4-(4-(3-piperidinopropoxy)phenyl)chromane
In an manner analogous to that described in step 5 for Example 7, (±)-cis-7-methoxy-3-(3-methoxyphenyl)-4-(4-(3-piperidinopropoxy)phenyl)chromane (0.49 g, 1.0 mmol) was de-methylated by heating with pyridine hydrochloride to give the title compound as a yellow solid.

reactant | (±)-cis-7-methoxy-3-(3-methoxyphenyl)-4-(4-(3-piperidinopropoxy)phenyl)chromane | 1.0 mmol, 0.49 g | COC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC(=CC=C1)OC)C1=CC=C(C=C1)OCCCN1CCCCC1 | C31H37NO4
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | (±)-cis-7-Hydroxy-3-(3-hydroxyphenyl)-4-(4-(3-piperidinopropoxy)phenyl)chromane | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC(=CC=C1)O)C1=CC=C(C=C1)OCCCN1CCCCC1 | C29H33NO4
